US05677303
3-Chloro-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one
20.6 g (0.1 mol) of 3-(3,4-Dimethoxyphenyl)prop-2-ynoic acid and 36 ml (0.5 mol) of thionylchloride are stirred at room temperature for 2 hours. The excess thionylchloride is evaporated and the residue dissolved in 50 ml of toluene. This solution is added under ice cooling and stirring to a solution of 50 ml of pyridine and 10.9 g (0.125 mol) of morpholine in 100 ml of toluene. After 10 minutes of further stirring at room temperature the mixture is heated to 90° C. for 10 minutes. The mixture is cooled and then extracted twice with 250 ml of 2N hydrochloric acid and once with water, dried and evaporated. The resulting compound is purified by flash column chromatography using as eluant 1000 ml of toluene/acetone (10 and 20% of acetone). The fractions with Rf-value 0.52 and 0.43 in TLC (toluene/acetone 7:3) are gathered and the solvent is evaporated.

reactant | 3-(3,4-Dimethoxyphenyl)prop-2-ynoic acid | 0.1 mol, 20.6 g | COC=1C=C(C=CC1OC)C#CC(=O)O | C11H10O4
reactant | thionylchloride | 0.5 mol, 36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | morpholine | 0.125 mol, 10.9 g | N1CCOCC1 | C4H9NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-3-(3,4-dimethoxyphenyl)-1-morpholin-4-ylprop-2-en-1-one | ClC(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C15H18ClNO4
